US05760021
III. Synthesis of 4-Cyano-2-hydroxy-2-phosphonobutanoic Acid
A solution of 2.77 g (0.01 mole) of ethyl 4-cyano-2-diethoxyphosphinyl-2-hydroxybutanoate in 30 ml of CHCl3 is treated with 10.7 g (0.07 mole) of trimethylsilyl bromide. The solution is stirred at 50° for about one day. It's cooled to room temperature, and water is added. The mixture is stirred for about 30 minutes. The layers are separated, and the water layer is washed several times with CHCl3. The water layer is evaporated to dryness under vacuum, and the residue is triturated with acetone to convert it to a solid (filter to collect it), which is 4-cyano-2-hydroxy-2-phosphonobutanoic acid.

reactant | ethyl 4-cyano-2-diethoxyphosphinyl-2-hydroxybutanoate | 0.01 mole, 2.77 g | C(#N)CCC(C(=O)OCC)(O)P(=O)(OCC)OCC | C11H20NO6P
reactant | trimethylsilyl bromide | 0.07 mole, 10.7 g | C[Si](C)(C)Br | C3H9BrSi
reactant | water | O | H2O
solvent | CHCl3 | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Cyano-2-hydroxy-2-phosphonobutanoic Acid | C(#N)CCC(C(=O)O)(P(=O)(O)O)O | C5H8NO6P
